US09382234B2
A solution of 3-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)-5-chloro-2-methylbenzoic acid (140 mg, 0.379 mmol), 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one, hydrochloride (71.4 mg, 0.379 mmol), 1-hydroxy-7-azabenzotriazole (HOAT) (77 mg, 0.568 mmol), EDC (109 mg, 0.568 mmol) and N-methylmorpholine (166 μl, 1.514 mmol) was stirred for 18 h at RT in N,N-Dimethylformamide (DMF) (3619 μl) under nitrogen. Upon completion, the reaction was poured into stirring ice-water. White solid precipitated out of solution, which was filtered and dried under high vacuum to give tert-butyl 4-(5-chloro-3-(((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)carbamoyl)-2-methylphenoxy)piperidine-1-carboxylate (0.095 g, 0.189 mmol, 50% yield). 1H NMR (400 MHz, DMSO-d6) δ 1.41 (s, 9 H) 1.50-1.60 (m, 2 H) 1.79-1.90 (m, 2 H) 2.06 (s, 3 H) 2.16 (s, 3 H) 2.31 (s, 3 H) 3.20-3.31 (m, 2 H) 3.49-3.63 (m, 2 H) 4.19 (d, J=4.80 Hz, 2 H) 4.59-4.78 (m, 1 H) 5.87 (s, 1 H) 6.81 (d, J=2.02 Hz, 1 H) 7.15 (d, J=1.77 Hz, 1 H) 8.22 (t, J=5.05 Hz, 1 H) 11.01 (br. s., 1 H). MS(ES) [M+H]+ 504.4.

reactant | 3-((1-(tert-butoxycarbonyl)piperidin-4-yl)oxy)-5-chloro-2-methylbenzoic acid | 0.379 mmol, 140 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C(=C(C(=O)O)C=C(C1)Cl)C | C18H24ClNO5
reactant | 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one, hydrochloride | 0.379 mmol, 71.4 mg | Cl.NCC1=C(NC(=CC1=O)C)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.568 mmol, 77 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 0.568 mmol, 109 mg
reactant | N-methylmorpholine | 1.514 mmol, 166 μl | CN1CCOCC1 | C5H11NO
solvent | N,N-Dimethylformamide | 3619 μl | CN(C=O)C | C3H7NO
product | tert-butyl 4-(5-chloro-3-(((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)carbamoyl)-2-methylphenoxy)piperidine-1-carboxylate | 0.189 mmol, 0.095 g, 50% yield | ClC=1C=C(C(=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)C(NCC1=C(NC(=CC1=O)C)C)=O | C26H34ClN3O5
